US06664291B2
N-[4-(4-Hydroxy-3-isopropyl-phenoxy)-3,5-dimethyl-phenyl]-malonamic acid methyl ester
To a solution of 4-(4-amino-2,6-dimethyl-phenoxy)-2-isopropyl-phenol (39 mg, 0.14 mmol) in THF (2 mL) was added triethylamine (22 μL, 0.16 mmol) and methyl malonyl chloride (16 μL, 0.15 mmol). The resulting mixture was stirred at RT for 18 h. The solution was concentrated and the residue was purified by preparative TLC (2.5% MeOH in CH2Cl2) to give the title compound of Step D (31 mg). MS (APCl−) CaIc.: 371.3, Found: 370.3 (M−1).

reactant | 4-(4-amino-2,6-dimethyl-phenoxy)-2-isopropyl-phenol | 0.14 mmol, 39 mg | NC1=CC(=C(OC2=CC(=C(C=C2)O)C(C)C)C(=C1)C)C | C17H21NO2
reactant | triethylamine | 0.16 mmol, 22 μL | C(C)N(CC)CC | C6H15N
reactant | methyl malonyl chloride | 0.15 mmol, 16 μL | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | N-[4-(4-Hydroxy-3-isopropyl-phenoxy)-3,5-dimethyl-phenyl]-malonamic acid methyl ester | 31 mg | COC(CC(=O)NC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)C(C)C)C)=O | C21H25NO5
